US06489344B1
1. Preparation of 2,6-dichloropyridine-3-carboxamide
A mixture of 2,6-dichloro-3-carboxypyridine (5.73 g, 30 mmole) and N-methylmorpholine (3.6 ml, 33 mmole) in dichloromethane (100 ml) was stirred in an ice-bath for 5 min. Isopropyl chloroformate (4.28 ml, 33 mmole) was added the reaction mixture at 0° C. The reaction mixture was stirred for 30 min and then bubbled with pure ammonia gas for 2 min. and stirred overnight at room temperature. The crude was concentrated under reduced pressure and sodium bisulfate (0.5M, 35 ml) was added with stirring. The aqueous solution was extracted with ethyl acetate (3×40 ml). The organics was washed with water and brine and dried with sodium sulfate to give yellow crude product (6.3 g, 50% pure).

reactant | 2,6-dichloro-3-carboxypyridine | 30 mmole, 5.73 g | ClC1=NC(=CC=C1C(=O)O)Cl | C6H3Cl2NO2
reactant | N-methylmorpholine | 33 mmole, 3.6 ml | CN1CCOCC1 | C5H11NO
reactant | Isopropyl chloroformate | 33 mmole, 4.28 ml | ClC(=O)OC(C)C | C4H7ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,6-dichloropyridine-3-carboxamide | 6.3 g, 50% | ClC1=NC(=CC=C1C(=O)N)Cl | C6H4Cl2N2O
